US07429565B2
6-(3-Bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one
Polymer-supported triphenylphosphine (3 mmol/g, 0.66 g) was soaked in dichloromethane (6 mL) for 1 hour. 6-(3-Hydroxymethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (260 mg, 0.66 mmol) and carbon tetrabromide (657 mg, 1.98 mmol) were added sequentially and the mixture was shaken for 1 h at room temperature. The mixture was filtered and the filtrate was concentrated. The residue was purified by silica gel chromatography to provide 233 mg (77%) of the product as a white solid. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 1.08 (t,3H), 1.20 (dd, 2H, J=7, 8 Hz), 2.14 (s, 3H), 2.35-2.43 (m, 2H), 3.44 (d, J=7.2, 2H), 3.73 (s, 3H), 3.95 (s, 2H), 4.27 (dd, 2H, J=7, 8 Hz), 5.08 (s, 2H), 5.53 (t, J=7.2 Hz, 1H) ppm.

reactant | triphenylphosphine | 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 6-(3-Hydroxymethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.66 mmol, 260 mg | OCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)CC | C21H32O5Si
reactant | carbon tetrabromide | 1.98 mmol, 657 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 6-(3-Bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 233 mg, 77% | BrCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)CC | C21H31BrO4Si
